US04927819
Step C 2-Methoxy-5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene
To a solution of 2-methoxy-5-hydroxymethyldibenzo[a,d]cycloheptene (10.5 g) in dry dichloromethane (150 ml) was added p-toluenesulphonyl chloride (8.1 g), pyridine (6.6 g) and 4-dimethylamino pyridine (300 mg). The reaction mixture was refluxed for 15h, cooled, washed with water (2×200 ml), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash silica chromatography using 15% ethyl acetate in hexane as eluent to give the title compound as an oil (13.5 g). δ(360 MHz, CDCl3), 2.44 (3H, s, Ar--CH3), 3.78 (3H, s, OCH3), 4.19-4.31 (3H, m CH-CH2 --OSO2Ar). 6.58 (1H, d, J=11.9 Hz, Ar--CH=CH--Ar), 6.65 (1H, d, J=11.9 Hz, Ar--CH=CH--Ar), 6.68 (1H, d, J=2.7, CH=C(OCH3)--CH), 6.85 (1H, dd, J=8.4 and 2.7 Hz, CH=C(OCH3)--CH) and 7.16-7.42 (9H, m, aromatics). m/e 406 (M+).

reactant | 2-methoxy-5-hydroxymethyldibenzo[a,d]cycloheptene | 10.5 g | COC1=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C=C1 | C17H16O2
reactant | p-toluenesulphonyl chloride | 8.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 6.6 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Methoxy-5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene | 13.5 g | COC1=CC2=C(C(C3=C(C=C2)C=CC=C3)COS(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C24H22O4S
